US07709473B2
6-tert-Butyl-8-(2-p-tolyloxy-ethylamino)-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one
To a solution of 60 mg of 6-tert-butyl-8-chloro-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one and 100 mg of 2-p-tolyloxy-ethylamine hydrochloride in DMF (2.0 mL) was added 60 mg of TEA. The mixture was heated to 80° C. for three h and then was cooled to ambient temperature and partitioned between EtOAc and water. The organic layer was washed with sat. sodium chloride solution and then dried over sodium sulfate, filtered, and concentrated. The residue was purified by silica gel chromatography to afford the title compound as a white solid. MS (M+H+)=342.5.

reactant | 6-tert-butyl-8-chloro-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one | 60 mg | C(C)(C)(C)C=1N=C(C=2N(C1)C(NN2)=O)Cl | C9H11ClN4O
reactant | 2-p-tolyloxy-ethylamine hydrochloride | 100 mg | Cl.C1(=CC=C(C=C1)OCCN)C
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 6-tert-Butyl-8-(2-p-tolyloxy-ethylamino)-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one | C(C)(C)(C)C=1N=C(C=2N(C1)C(NN2)=O)NCCOC2=CC=C(C=C2)C | C18H23N5O2
